US09233163B2
a). 2-Ketoglutaric acid 1-(p-methoxybenzyl) ester (3)
2-Ketoglutaric acid (98.5%, 1.484 g, 10.0 mmol) was suspended in 2-propanol (25 mL), cooled in ice and neutralized with a 40% aqueous solution of tetrabutylammonium hydroxide (5.9 mL, 9.0 mmol). The resulting solution was diluted with hexane (7 mL), dried in vacuo (below 30° C.), dissolved in a mixture of 2-propanol (15 mL) and hexane (5 mL) and dried as above to a viscous syrup (4.834 g). The residue was protected with argon, dissolved in N,N-dimethylacetamide (5 mL), and p-methoxybenzyl chloride (1.25 mL, 9.0 mmol) was added. The mixture was allowed to react at room temperature under argon protection for 65 h. An 0.8 M aqueous solution of phosphoric acid (40 mL) was added, the mixture was extracted with ethyl acetate, the organic layer was washed with 0.8 M phosphoric acid, with water, and dried. The crude monoester (2.266 g) was purified by flash chromatography (silica-gel, chloroform-ethyl acetate, 100:0 to 1:1, containing 0.2% of acetic acid) and crystallized from ethyl acetate-hexane. Yield of 3: 1.330 g (56%), 1H NMR (CDCl3) detected 60% of the open tautomer 3a and 40% of the cyclic tautomer 3b.

reactant | 2-Ketoglutaric acid | 10.0 mmol, 1.484 g | O=C(C(=O)O)CCC(=O)O | C5H6O5
reactant | tetrabutylammonium hydroxide | 9.0 mmol, 5.9 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | p-methoxybenzyl chloride | 9.0 mmol, 1.25 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | phosphoric acid | 40 mL | P(O)(O)(O)=O | H3O4P
solvent | 2-propanol | 25 mL | CC(C)O | C3H8O
solvent | hexane | 7 mL | CCCCCC | C6H14
product | 2-Ketoglutaric acid 1-(p-methoxybenzyl) ester | COC1=CC=C(COC(C(CCC(=O)O)=O)=O)C=C1 | C13H14O6
